US07067517B2
4-[(Ethyl-pyridin-4-ylmethyl-amino)-methyl]-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and ethyl-piperidin-4-ylmethyl-pyridin-4-ylmethyl-amine, hydrochloride, 5 equivalent of diisopropylamine was added, praeparative HPLC (Method C) (25%, off-white crystals). HPLC-MS m/z=515.2 (M+1), Rt: 2.77 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | ethyl-piperidin-4-ylmethyl-pyridin-4-ylmethyl-amine, hydrochloride | Cl.C(C)N(CC1=CC=NC=C1)CC1CCNCC1
reactant | diisopropylamine | 5 equivalent | C(C)(C)NC(C)C | C6H15N
product | 4-[(Ethyl-pyridin-4-ylmethyl-amino)-methyl]-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCC(CC1)CN(CC1=CC=NC=C1)CC)(F)F | C27H29F3N4O3
